US04912105
Methyl iodide (0.036 g) is added to a solution of 10-[1-(1-pyrrolidinyl) (2RS)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride (0.1 g) in dimethylformamide (1 cc) and the mixture is stirred for 16 hours at a temperature of about 20° C. The reaction solution obtained is poured into isopropyl ether (15 cc) and the oil formed is decanted, washed with isopropyl ether (15 cc) and again dissolved in a mixture of acetone and methanol (85-15 by volume) (12 cc). The preceding solution is poured dropwise, with stirring, into isopropyl ether (50 cc), and the yellow solid formed is filtered off and dried under reduced pressure (5 mm Hg; 0.67 kPa) at 50° C. 10-[1-(1-methyl-1-pyrrolidinio) (2RS)-2-propyl]-2-phenothiazinecarboxamidine iodide hydrochloride (0.11 g) is obtained in the form of a yellow powder which melts above 250° C.,

reactant | Methyl iodide | 0.036 g | CI | CH3I
reactant | 10-[1-(1-pyrrolidinyl) (2RS)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride | 0.1 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)N
reactant | isopropyl ether | 15 cc | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 1 cc | CN(C=O)C | C3H7NO
product | 10-[1-(1-methyl-1-pyrrolidinio) (2RS)-2-propyl]-2-phenothiazinecarboxamidine iodide hydrochloride | 0.11 g | Cl.[I-].C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)N | InChI=1S/C21H27N4S.ClH.HI/c1-15(14-25(2)11-5-6-12-25)24-17-7-3-4-8-19(17)26-20-10-9-16(21(22)23)13-18(20)24;;/h3-4,7-10,13,15H,5-6,11-12,14H2,1-2H3,(H3,22,23);2*1H/q+1;;/p-1
